US07666868B2
A1. (E)-3-{1-[4-(1-Methyl-1H-Indol-5-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide
A mixture of 0.4 g (E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide, 0.231 g N-Methylindol-5-boronic acid and 14 ml dimethoxyethane is slightly heated and to this mixture are added bis(triphenylphosphine)palladium(II)chloride and 1.5 ml of a 2M aqueous sodium sulfate solution. This mixture is heated to reflux temperature under an inert gas atmosphere overnight. After cooling the mixture is filtered, evaporated and the residue is partitioned between ethyl acetate and a 5% aqueous solution of sodium bicarbonate. The organic phase is dried and evaporated and the residue is purified by silica gel flash chromatography.

reactant | (E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.4 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C18H19BrN2O5S
reactant | N-Methylindol-5-boronic acid | 0.231 g | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
reactant | sodium sulfate | 2M | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II)chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | dimethoxyethane | 14 ml | C(OC)COC | C4H10O2
product | (E)-3-{1-[4-(1-Methyl-1H-Indol-5-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | CN1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C27H27N3O5S
